US07067540B2
Preparation of 4-(benzyloxy)-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one
A mixture of 1-(2,6-dichlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one (0.125 g, 0.46 mmol) and benzylbromide (0.1 mL) in DMF (2.5 mL) was stirred at room temperature for 16 h. The reaction mixture was diluted with water (10.0 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts were washed with water, dried (Na2SO4), filtered, concentrated under reduced pressure and the resulting material was purified by silica gel flash chromatography using 25% EtOAc in hexanes to afford the title compound (0.11 g) as a pale yellow syrup: 1H-NMR (CD3OD) δ: 7.61 (m, 2H), 7.55-7.3 (m, 6H), 6.23 (d, 1H, J=2.0 Hz), 6.01 (d, 1H, J=2.0 Hz), 5.12 (s, 2H), and 1.93 (s, 3H); ES-MS m/z=360 (MH+); HR-MS, m/z calc C19H16NO2Cl2, 360.0553, found 360.0569.

reactant | 1-(2,6-dichlorophenyl)-4-hydroxy-6-methylpyridin-2(1H)-one | 0.46 mmol, 0.125 g | ClC1=C(C(=CC=C1)Cl)N1C(C=C(C=C1C)O)=O | C12H9Cl2NO2
reactant | benzylbromide | 0.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | 10.0 mL | O | H2O
product | 4-(benzyloxy)-1-(2,6-dichlorophenyl)-6-methylpyridin-2(1H)-one | 0.11 g | C(C1=CC=CC=C1)OC1=CC(N(C(=C1)C)C1=C(C=CC=C1Cl)Cl)=O | C19H15Cl2NO2
